US07534797B2
A CH2Cl2 solution (111.0 mL) of C-(3-chloro-pyrazin-2-yl)-C-(2-phenyl-quinolin-7-yl)-methylamine (1.9 g, 5.5 mmol) and PS-DIPEA (2.8 g, 11.1 mmol) in a round bottom flask under N2 atmosphere was charged with 4-chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester (1.4 g, 5.0 mmol) and stirred at rt for 1.5 h. The reaction mixture was filtered and concentrated in vacuo. The resulting residue was purified by silica gel chromatography (Jones Flashmaster, 20 g/70 mL cartridge, eluting with 100% CH2Cl2 to 10% CH3CN/CH2Cl2) to afford 4-{[(3-chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-piperidine-1-carboxylic acid benzyl ester as a pale yellow solid; MS (ES+): m/z 592/594 (100/50) [MH+]; HPLC: tR=3.7 min (OpenLynx, polar—5 min).

reactant | C-(3-chloro-pyrazin-2-yl)-C-(2-phenyl-quinolin-7-yl)-methylamine | 5.5 mmol, 1.9 g | ClC=1C(=NC=CN1)C(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)N | C20H15ClN4
reactant | DIPEA | 11.1 mmol, 2.8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester | 5.0 mmol, 1.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
solvent | CH2Cl2 | 111.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{[(3-chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-carbamoyl}-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)C1=NC=CN=C1Cl)=O | C34H30ClN5O3
